US07265111B2
[(R)-1-(3-chloro-thiophen-2-ylmethyl)-propyl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine (1.23 g, 2.56 mmoles) prepared as described above was put in solution in THF (31 ml) and the resulting solution was treated with 12 N HCl in water (2.56 ml, 30.7 mmoles), and stirred for 2 h at room temperature. The solvent was then evaporated to dryness and the residue partitioned between water and AcOEt and neutralized with a saturated bicarbonate solution, the aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were washed with brine and dried over sodium sulfate. The filtrate was concentrated under reduced pressure to give a residue which was taken up in iPr2O and the resulting solution is diluted with pentane, the solid was filtrated, washed with pentane 3 times and dried to yield (1R,2S,3R,5S)-3-{6-[(R)-1-(3-chloro-thiophen-2-ylmethyl) -propylamino]-purin-9-yl}-5-fluoromethyl-cyclopentane-1,2-diol. 1H NMR (300 MHz, (CD3)2SO d6, δ in ppm): 0.92 (t, J=7,5 Hz: 3H); 1.68 (mt: 2H); 1.84 (mt: 1H); 2.31 (mt:2H); 3.13 (mt:2H); 3.92 (mt: 1H); 4.40 (mt: 1H); 4.51 (mf: 1H); 4.55 (dmt, JHF=48 Hz: 2H); 4.75 (mt: 1H); 4.94 (d, J=3,5 Hz: 1H); 5.10 (d, J=6 Hz: 1H); 6.98 (d, J=5 Hz: 1H); 7.43 (d, J=5 Hz: 1H); 7.72 (broad d, J=8 Hz: 1H); 8.18 (mf: 1H); 8.23 (s:1H). m.p.=143°.

reactant | [(R)-1-(3-chloro-thiophen-2-ylmethyl)-propyl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine | 2.56 mmoles, 1.23 g | ClC1=C(SC=C1)C[C@@H](CC)NC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)CF | C22H27ClFN5O2S
reactant | HCl | 12 N | Cl | ClH
reactant | water | 30.7 mmoles, 2.56 ml | O | H2O
solvent | THF | 31 ml | C1CCOC1 | C4H8O
solvent | iPr2O | O(C(C)C)C(C)C | C6H14O
solvent | pentane | CCCCC | C5H12
product | (1R,2S,3R,5S)-3-{6-[(R)-1-(3-chloro-thiophen-2-ylmethyl) -propylamino]-purin-9-yl}-5-fluoromethyl-cyclopentane-1,2-diol | ClC1=C(SC=C1)C[C@@H](CC)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)CF)O)O | C19H23ClFN5O2S
